US06124452
First, diethyl tetrafluorosuccinate was prepared. Benzene (1 L) was refluxed in a 2 L 2-necked round bottom flask equipped with a Dean-Stark trap, condenser and magnetic stir bar. The azeotrope was removed. Absolute ethanol (500 ml) was added to the flask. The Dean-Stark trap was filled with activated 4 Å molecular sieves, and the solvents were refluxed through the sieves for 1 hour. The Dean-Stark trap was then placed with a Sohxlet extractor apparatus, and a Sohxlet thimble was filled with activated molecular sieves and placed in the apparatus. The tetrafluorosuccinic acid (50.37 g, 0.265 mol) was added to the flask along with p-toluene sulfonic acid (4 g). The reaction was refluxed for 24 hours. The wet sieves were periodically removed and replaced with fresh sieves. The reaction was followed by NMR. After 24 hours, the reaction was allowed to cool, and the solvents were removed in vacuo. The resulting oil was taken up to 200 ml pentane and washed three times with 50 ml saturated NaHCO3 solution. The pentane was removed in vacuo to give 53.42 g (82%) of the clear oil diethyl tetrafluorosuccinate. The following data verifies the formation of diethyl tetrafluorosuccinate: NMR (360 MHz, CDCl3) 1H δ 1.36 (t, 6H, J=7.16 Hz), 4.39 (q, 4H, J=7.16 Hz).

reactant | tetrafluorosuccinic acid | 0.265 mol, 50.37 g | FC(C(C(=O)O)(F)F)(C(=O)O)F | C4H2F4O4
reactant | p-toluene sulfonic acid | 4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Benzene | 1 L | C1=CC=CC=C1 | C6H6
product | diethyl tetrafluorosuccinate | FC(C(C(=O)OCC)(F)F)(C(=O)OCC)F | C8H10F4O4
